US07247734B2
Resorcinol (0.66 g, 6 mmol), phenylacetic acid (0.816 g, 6 mmol), and boron triflouride diethyletherate (5 ml) were heated to 85° C. for 90 mins. After this time the reaction was cooled and DMF (4 ml) was added. 30 min prior to the completion of the first stage, PCl5 (1.878 g, 9 mmol) was added to cool DMF (8 ml) and the mixture heated (60° C.) for 20 minutes. This was added to the solution from stage one, and the combined solution allowed to stir at room temperature for 1 hour. The reaction mixture was then poured into 1MHCl (100 ml). The precipitate formed was filtered and re-crystallized from methanol to give 7-Hydroxy-3-phenyl-chromen-4-one as a white solid (1.3 g, 91.0%); Rf 0.25 ethyl acetate/hexane (30/70)].

reactant | Resorcinol | 6 mmol, 0.66 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | phenylacetic acid | 6 mmol, 0.816 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | boron triflouride | B(F)(F)F | BF3
reactant | PCl5 | 9 mmol, 1.878 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-Hydroxy-3-phenyl-chromen-4-one | 1.3 g, 91.0% | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
